US06232478B1
Preparation of t-butyl ammonium (R)-3,4epoxybutyrate
t-butyl amine (571mg, 7.81mmol) was added to the reacting solution of D2O containing (S)-4-hydroxy-3-methanesulfonyl hydroxybutyric acid, so prepared from Example 3 and stirred at room temperature for 4 hours. The presence of the target t-butyl anmmonium (R)-3,4-epoxybutyrate in a layer of the reacting solution was confirmed by nuclear magnetic resonance.

reactant | t-butyl amine | 7.81mmol, 571mg | C(C)(C)(C)N | C4H11N
reactant | (S)-4-hydroxy-3-methanesulfonyl hydroxybutyric acid | OCC([C@H](C(=O)O)O)S(=O)(=O)C | C5H10O6S
reactant | (R)-3,4-epoxybutyrate | O1[C@H](CC(=O)[O-])C1
product | t-butyl ammonium (R)-3,4epoxybutyrate | O1[C@H](CC(=O)[O-])C1.C(C)(C)(C)[NH3+] | InChI=1S/C4H11N.C4H6O3/c1-4(2,3)5;5-4(6)1-3-2-7-3/h5H2,1-3H3;3H,1-2H2,(H,5,6)/t;3-/m.1/s1
